US09353108B2
H) 2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-carbaldehyde
Manganese dioxide (2.29 g) was added at room temperature to a toluene (30 mL) solution of (2-chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-yl)methanol (1.07 g), and the mixture was stirred at 80° C. for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered through celite, and then, the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (978 mg).

reactant | (2-chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-yl)methanol | 1.07 g | ClC1=C(C(=CC(=C1OC)CO)C1CC1)C1=C(C=C(C=C1)F)F | C17H15ClF2O2
catalyst | Manganese dioxide | 2.29 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-methoxybiphenyl-4-carbaldehyde | 978 mg | ClC1=C(C(=CC(=C1OC)C=O)C1CC1)C1=C(C=C(C=C1)F)F | C17H13ClF2O2
